US06503907B2
To 8.4 g (20 mmol) Trifluoro-methanesulfonic acid 1-(4-bromo-phenyl)-1H-indol-5-yl ester in 30 ml piperidine were added 2.08 g (24 mmol) LiBr, 580 mg (0.05 eq) [1,2-Bis(diphenylphosphino)ethane]dichloropalladium(II) and 2.8 ml (30 mmol) 4-pentyn-1-ol. The mixture was stirred at 60° C. for 3 h, further 0.5 ml (5.4 mmol) 4-pentynol were added and stirred at 70° C. for 1 h. The reaction mixture was concentrated and dissolved in ether and water. 2M HCl was added and the inorganic phase was extracted with ether. The combined organic phases were washed with water and concentrated. The residue was dissolved in 50 ml EtOH and treated with 5 ml conc. NaOH at 50° C. for 30 min. The solution was concentrated and dissolved in water and ether. The organic phase was washed with water, dried over Na2SO4 and concentrated. Column chromatography with CH2Cl2 yielded 2.15 g (30%) 5-[1-(4-Bromo-phenyl)-1H-indol-5-yl]-pent-4-yn-1-ol as colorless viscous oil, MS: 353 (M, 1Br).

reactant | Trifluoro-methanesulfonic acid 1-(4-bromo-phenyl)-1H-indol-5-yl ester | 20 mmol, 8.4 g | BrC1=CC=C(C=C1)N1C=CC2=CC(=CC=C12)OS(=O)(=O)C(F)(F)F | C15H9BrF3NO3S
reactant | LiBr | 24 mmol, 2.08 g | [Li+].[Br-]
reactant | 4-pentyn-1-ol | 30 mmol, 2.8 ml | C(CCC#C)O | C5H8O
reactant | 4-pentynol | 5.4 mmol, 0.5 ml | C(CCC#C)O | C5H8O
solvent | piperidine | 30 ml | N1CCCCC1 | C5H11N
catalyst | [1,2-Bis(diphenylphosphino)ethane]dichloropalladium(II) | 580 mg, 0.05 eq | C1=CC=C(C=C1)P(CCP(C2=CC=CC=C2)C3=CC=CC=C3)C4=CC=CC=C4.Cl[Pd]Cl
product | 5-[1-(4-Bromo-phenyl)-1H-indol-5-yl]-pent-4-yn-1-ol | 2.15 g, 30% | BrC1=CC=C(C=C1)N1C=CC2=CC(=CC=C12)C#CCCCO | C19H16BrNO
